US06492416B1
To a stirred solution of 2-methyl-3-butyn-2-ol (416 mg) and dry THF (30 ml) under argon and at −78° C., was added 1.6 M butyllithium in hexane (5 ml) dropwise over 10 minutes. 20 minutes later, p-methylthiobenzaldehyde (0.5 ml) was added dropwise to the reaction solution. Then the reaction solution was allowed to warm up to the ambient temperature by removing the cold bath. After stirring the reaction mixture for 2 hours, the reaction solvent was removed in vacuo, which was followed by neutralization with dilute aqueous HCl solution. The reaction mixture was then extracted with dichloromethane (50 ml×3), and the dichloromethane layer was washed with water (50 ml×1). The dichlomethane layer was concentrated in vacuo and the resulting residue was subjected to column chromatographic separation (hexane/ethyl acetate=1:1) to yield 724 mg of 1-{4-(methylthio)phenyl}-4-hydroxy-4-methyl-2-pentyn-1-ol. NMR: δ1.54 (s, 6H), 2.36 (s, 1H), 2.48 (s, 3H), 2.62 (d, 1H), 5.43(d, J=5.4 Hz, 1H), 7.25 (d, J=6.9 Hz, 2H), 7.43 (d, J=6.9 Hz, 2H).

reactant | 2-methyl-3-butyn-2-ol | 416 mg | CC(C)(C#C)O | C5H8O
reactant | THF | 30 ml | C1CCOC1 | C4H8O
reactant | butyllithium | 1.6 M | C(CCC)[Li]
reactant | p-methylthiobenzaldehyde | 0.5 ml | CC1=CC=C(C=S)C=C1 | C8H8S
solvent | hexane | 5 ml | CCCCCC | C6H14
product | 1-{4-(methylthio)phenyl}-4-hydroxy-4-methyl-2-pentyn-1-ol | 724 mg | CSC1=CC=C(C=C1)C(C#CC(C)(C)O)O | C13H16O2S
